US06596719B1
According to the procedure described in Example 4b) 4-tert.-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-cyclopropyl-pyrimidin-4-yl]-benzene-sulfonamide was reacted with 2-aminoethanol to give 1.28 g 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-cyclopropyl-pyrimidin-4-yl]-benzene-sulfonamide. LC-MS: tR=4.04 min, [M−1]−=511.50.

reactant | 4-tert.-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-cyclopropyl-pyrimidin-4-yl]-benzene-sulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1CC1 | C24H26ClN3O4S
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-cyclopropyl-pyrimidin-4-yl]-benzene-sulfonamide | 1.28 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1CC1 | C26H32N4O5S
